US07750003B2
3-Cyclopropyl-1-[4-[4-[(3S)-3-methylmorpholine-4-carbonyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea
2-[4-(Cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylic acid (95 mg) was dissolved in DMF (3 mL) and (3S)-3-methylmorpholine added. DIPEA (0.125 mL) and HATU (137 mg) were added and the reactions stirred at RT for 3 h before being concentrated in vacuo and partitioned between DCM (25 mL) and water (25 mL). The organic layer was dried over magnesium sulphate, filtered and evaporated to dryness to give the desired material as a solid (88 mg).

reactant | 2-[4-(Cyclopropylcarbamoylamino)phenyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine-4-carboxylic acid | 95 mg | C1(CC1)NC(=O)NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(=O)O)N1[C@H](COCC1)C | C20H23N5O4
reactant | (3S)-3-methylmorpholine | C[C@@H]1NCCOC1 | C5H11NO
reactant | DIPEA | 0.125 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 137 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-Cyclopropyl-1-[4-[4-[(3S)-3-methylmorpholine-4-carbonyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]urea | 88 mg | C1(CC1)NC(NC1=CC=C(C=C1)C1=NC(=CC(=N1)C(=O)N1[C@H](COCC1)C)N1[C@H](COCC1)C)=O | C25H32N6O4
